US08071768B2
a. (4-Isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester
To a solution of 4-isopropoxyaniline (9.06 g, 60.0 mmol) in DCM (120 mL) and pyridine (30 mL) was added 4-nitrophenyl chloroformate (10.9 g, 54.0 mmol) portionwise with stirring over ˜1 min with brief ice-bath cooling. After stirring at rt for 1 h, the homogeneous solution was diluted with DCM (300 mL) and washed with 0.6 M HCl (1×750 mL) and 0.025 M HCl (1×1 L). The organic layer was dried (Na2SO4) and concentrated to give the title compound as a light violet-white solid (16.64 g, 98%). 1H-NMR (300 MHz, CDCl3) δ 8.26 (m, 2H), 7.40-7.28 (m, 4H), 6.98 (br s, 1H), 6.87 (m, 2H), 4.50 (heptet, J=6.0 Hz, 1H), 1.33 (d, J=6.0 Hz, 6H). LC/MS (ESI): calcd mass 316.1, found 633.2 (2 MH)+.

reactant | 4-isopropoxyaniline | 60.0 mmol, 9.06 g | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
reactant | 4-nitrophenyl chloroformate | 54.0 mmol, 10.9 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | (4-Isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester | 16.64 g, 98% | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)OC(C)C)=O | C16H16N2O5
